US08802688B2
Step 4: 6-(2-tert-butoxy-2-oxoethoxy)quinoline-3-carboxylic acid
Methanol (100 mL) and triethylamine (4.5 mL, 33 mmol) were added to 6-(2-tert-butoxy-2-oxoethoxy)-2-chloroquinoline-3-carboxylic acid (1.27 g, 3.76 mmol). 10% Palladium on carbon (350 mg) was added and the reaction was pressurized to 17 psi hydrogen. The reaction was agitated at room temperature for 3 hours. The reaction mixture was diluted with methanol and filtered through Celite. The filtrate was concentrated to a yellow solid. The solid was diluted with water and the mixture was acidified to pH=4 with 1 N aqueous hydrochloric acid. The solid was collected by filtration, washed with water, and dried under vacuum to give the title compound (960 mg, 84%) as a pale yellow solid. +ESI (M+H) 304.2; 1H NMR (400 MHz, CD3OD, δ): 9.19 (d, J=2.15 Hz, 1 H), 8.87 (d, J=2.15 Hz, 1 H), 8.01 (d, J=9.36 Hz, 1 H), 7.59 (dd, J=9.27, 2.83 Hz, 1 H), 7.38 (d, J=2.73 Hz, 1 H), 4.78 (s, 2 H), 1.49 (s, 9 H).

reactant | triethylamine | 33 mmol, 4.5 mL | C(C)N(CC)CC | C6H15N
reactant | 6-(2-tert-butoxy-2-oxoethoxy)-2-chloroquinoline-3-carboxylic acid | 3.76 mmol, 1.27 g | C(C)(C)(C)OC(COC=1C=C2C=C(C(=NC2=CC1)Cl)C(=O)O)=O | C16H16ClNO5
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 350 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | Methanol | 100 mL | CO | CH4O
product | 6-(2-tert-butoxy-2-oxoethoxy)quinoline-3-carboxylic acid | 960 mg, 84% | C(C)(C)(C)OC(COC=1C=C2C=C(C=NC2=CC1)C(=O)O)=O | C16H17NO5
